US06156774
2-[5-(2-Tetrazolylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
The title compound was prepared from 2-[5-(2-tetrazolylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester (Description 54) using the procedure described in Example 24 except that the eluent used was 10% methanol in dichloromethane. vmax (CHCl3) 3294 and 1646 cm-1. δ (CD3SOCD3) 1.68-1.81 (2H, m), 2.42-2.73 (5H, m), 5.74-5.83 (1H, m), 6.09 (2H, s), 6.88-6.96 (1H, m), 7.05-7.31 (6H, m), 8.20-8.31 (1H, m), 8.94 and 8.98 (1H, two s's). m/z 530 (M-H)-.

reactant | 2-[5-(2-tetrazolylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1SC(=CC1)CN1N=CN=N1)=O | C23H27N5O4S2
reactant | methanol | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[5-(2-Tetrazolylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | N=1N(N=NC1)CC1=CC=C(S1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O | C19H21N5O3S2
